US04654335
A solution of 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid, methyl ester (1.295 g., 5 mmoles) in dimethylformamide (5 ml.) is treated with 2-aminothiophenol (695 mg. of 90%, 5 mmoles). After stirring the reaction at room temperature for one hour, it is heated at 60°-65° for 24 hours. The reaction is allowed to cool down to ambient temperature and diluted with ether. The resulting yellow solution is washed thoroughly with water, 1N sodium hydroxide, and brine. After drying over anhydrous magnesium sulfate, the solvent is stripped off to give a yellow foam (1.3 g.). This product is purified by flash chromatography (20% ethyl acetate in hexane) and the residue is recrystallized from isopropyl ether-dichloromethane to provide 2,5-dihydro-4-methyl-2-(4-nitrophenyl)-1,5-benzothiazepine-3-carboxylic acid, methyl ester as yellow needles; m.p. 149.5°-151.5° (sinters at 140°). TLC (silica gel; acetone:hexane, 30:70) Rf =0.30.

reactant | 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid, methyl ester | 5 mmoles, 1.295 g | [N+](=O)([O-])C1=CC=C(C=C1)C=C(C(=O)OC)C(C)=O | C12H11NO5
reactant | 2-aminothiophenol | 5 mmoles, 695 mg | NC1=C(C=CC=C1)S | C6H7NS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2,5-dihydro-4-methyl-2-(4-nitrophenyl)-1,5-benzothiazepine-3-carboxylic acid, methyl ester | CC1=C(C(SC2=C(N1)C=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-])C(=O)OC | C18H16N2O4S
